US05076835
Preparation of 5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)-oxy]-1-methyl-2-indolinone
A solution of 5-[(2-chloro-α,α,α,6-tetrafluro-p-tolyl)oxy]-2-indolinone (16.8 g, 0.0485 mol) in toluene is treated in a single portion with a 60% sodium hydride dispersion in mineral oil (2.13 g, 0.0534 mol NaH) at 60° C., stirred for 30 minutes, treated dropwise with a solution of dimethylsulfate (5.1 mL, 0.0534 mol) in toluene over a 20 minute period at 60° C., stirred for 2 hours, cooled to room temperature and diluted with a mixture of ethyl acetate and water. The phases are separated, the organic phase is washed with brine and the aqueous phases are combined and further extracted with ethyl acetate. All organic phases are combined, dried over MgSO4, and concentrated in vacuo to give a light brown semi-solid residue. Trituration under a mixture of 3-5% ethyl acetate in hexane and filtration yields the title product as a light pink solid, 13.45 g (77%), mp 111-112° C.

reactant | 5-[(2-chloro-α,α,α,6-tetrafluro-p-tolyl)oxy]-2-indolinone | 0.0485 mol, 16.8 g | ClC1=C(C(=CC(=C1)OC=1C=C2CC(NC2=CC1)=O)F)C(F)(F)F | C15H8ClF4NO2
reactant | sodium hydride | [H-].[Na+]
reactant | NaH | 0.0534 mol, 2.13 g | [H-].[Na+]
reactant | dimethylsulfate | 0.0534 mol, 5.1 mL | COS(=O)(=O)OC | C2H6O4S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 5-[(2-Chloro-α,α,α,6-tetrafluoro-p-tolyl)-oxy]-1-methyl-2-indolinone | ClC1=C(C(=CC(=C1)OC=1C=C2CC(N(C2=CC1)C)=O)F)C(F)(F)F | C16H10ClF4NO2
